US04371711
Into a mixture of 150 ml of dried benzene and 100 ml of acetone, was dissolved 1.5 g of 4-hydroxy-5-allyl-2-cyclopentenone. After adding 3 g of freshly distilled aluminum isoproproxide, the mixture was heated under reflux for 12 hours. The reaction mixture was cooled to room temperature, washed twice with 30% sulfuric acid, then with water until the washings had become neutral. After drying over anhydrous sodium sulfate, the mixture was stripped of the solvent by distillation and the residue was distilled in vacuo to obtain 1.2 g (81% yield) of 4-keto-5-allyl-2-cyclopentenone boiling at 53° C./4 mmHg.

reactant | benzene | 150 ml | C1=CC=CC=C1 | C6H6
reactant | 4-hydroxy-5-allyl-2-cyclopentenone | 1.5 g | OC1C=CC(C1CC=C)=O | C8H10O2
reactant | aluminum | [Al] | Al
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4-keto-5-allyl-2-cyclopentenone | 1.2 g, 81% yield | O=C1C=CC(C1CC=C)=O | C8H8O2
